US07226942B2
Part V: 6-Benzyloxycarbonylamino-5,6,7,8-tetrahydroquinoline 1-oxide
To a stirred solution of 6-benzyloxycarbonylamino-5,6,7,8-tetrahydroquinoline (1.66 g, 5.87 mmol) in chloroform (13 mL) at 0° C. under nitrogen was added 3-chloroperoxybenzoic acid (1.06 g net, 6.16 mmol). The reaction mixture was then slowly warmed to room temperature. After 1 d, the reaction mixture was chromatographed on basic alumina (eluted with a 0–3% step-wise gradient of methanol in methylene chloride). The title compound (1.16 g, 66.5%) was obtained as a light yellow solid. 13C NMR (400 MHz, CDCl3) δ 155.7, 147.2, 137.3, 136.3, 133.5, 128.5, 128.1, 128.0, 126.5, 122.6, 66.8, 45.4, 36.7, 27.3, 22.9. 1H NMR (400 MHz, CDCl3) δ 8.10 (d, J=6.2 Hz, 1H), 7.31 (m, 5H), 7.00 (m, 2H), 5.07 (s, 2H), 3.98 (br s, 1H), 3.12 (m, 2H), 2.95 (m, 1H), 2.70 (dd, J=7.9, 16.0 Hz, 1H), 2.11 (m, 1H), 1.86 (br s, 1H). HPLC/MS [M+H]+, 299.

reactant | 6-benzyloxycarbonylamino-5,6,7,8-tetrahydroquinoline | 5.87 mmol, 1.66 g | C(C1=CC=CC=C1)OC(=O)NC1CC=2C=CC=NC2CC1 | C17H18N2O2
reactant | 3-chloroperoxybenzoic acid | 6.16 mmol, 1.06 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 13 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-Benzyloxycarbonylamino-5,6,7,8-tetrahydroquinoline 1-oxide | 1.16 g, 66.5% | C(C1=CC=CC=C1)OC(=O)NC1CC=2C=CC=[N+](C2CC1)[O-] | C17H18N2O3
